US07790707B2
Methyl 4-(3-(4-tert-butylbenzyl)-2-oxoimidazolidin-1-yl)benzoate
To a solution of methyl 4-(2-oxoimidazolidin-1-yl)benzoate (440 mg, 2.0 mmol) in N,N-dimethylformamide (10 ml) at 0° C. was added sodium hydride (96 mg-60% in oil, 2.4 mmole). The resulting mixture was stirred for 1 hour followed by addition of 1-(bromomethyl)-4-tert-butylbenzene (545 mg, 2.4 mmol). After stirring 24 hours at room temperature, the mixture was quenched with 1 ml water and the solvents were removed under reduced pressure. The residue was diluted with ethyl acetate (50 ml) and washed with water (50 ml) and brine (50 ml). Removal of the solvent gave the residue which was purified on ISCO system (1% methanol in dichloromethane) to give a pure product as a white solid (593 mg, 81%): 1H NMR (400 MHz, CDCl3) δ 8.25 (d, 2H), 7.68 (d, 2H), 7.36 (d, 2H), 7.23 (d, 2H), 4.46 (s, 2H), 3.90 (s, 3H), 3.83 (dd, 2H), 3.43 (dd, 2H), 1.31 (s, 9H). MS (ESI) m/z: Calculated: 366.19; Observed: 367.1 (M++1).

reactant | methyl 4-(2-oxoimidazolidin-1-yl)benzoate | 2.0 mmol, 440 mg | O=C1N(CCN1)C1=CC=C(C(=O)OC)C=C1 | C11H12N2O3
reactant | sodium hydride | 2.4 mmole | [H-].[Na+]
reactant | 1-(bromomethyl)-4-tert-butylbenzene | 2.4 mmol, 545 mg | BrCC1=CC=C(C=C1)C(C)(C)C | C11H15Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl 4-(3-(4-tert-butylbenzyl)-2-oxoimidazolidin-1-yl)benzoate | 593 mg, 81% | C(C)(C)(C)C1=CC=C(CN2C(N(CC2)C2=CC=C(C(=O)OC)C=C2)=O)C=C1 | C22H26N2O3
